US07858624B2
To a suspension of NaH (0.42 g, 17.6 mmol) in THF (50 mL) at 0˜5° C. was added dropwise a solution of (3R)-tert-butyl 3-((6-fluoro-3′-methylbiphenyl-2-yl)(hydroxy)methyl)piperidine-1-carboxylate (3.5 g, 8.8 mmol) in THF (30 mL) and the reaction mixture was stirred for 1 h at rt. A solution of ethyl bromoacetate (2.92 g, 17.6 mmol) in THF (30 mL) was added dropwise to the above mixture, and then refluxed for 12 h. Tlc showed the starting material had disappeared. The reaction mixture was poured into satd aq NH4Cl and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography to afford (3R)-tert-butyl 3-((2-ethoxy-2-oxoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate (1.1 g, 38%). 1H NMR (400 MHz, CDCl3): 1.26 (m, 3H), 1.40 (s, 9H), 2.10 (m, 1H), 2.39 (s, 3H), 2.51 (m, 1H), 3.51 (m, 1H), 3.78 (m, 1H), 3.96 (m, 2H), 4.16 (m, 3H), 4.23 (m, 2H), 4.69 (m, 2H), 6.97 (m, 2H), 7.06 (m, 1H), 7.20 (m, 1H), 7.29-7.41 (m, 3H).

reactant | NaH | 17.6 mmol, 0.42 g | [H-].[Na+]
reactant | (3R)-tert-butyl 3-((6-fluoro-3′-methylbiphenyl-2-yl)(hydroxy)methyl)piperidine-1-carboxylate | 8.8 mmol, 3.5 g | FC1=CC=CC(=C1C1=CC(=CC=C1)C)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C24H30FNO3
reactant | ethyl bromoacetate | 17.6 mmol, 2.92 g | BrCC(=O)OCC | C4H7BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (3R)-tert-butyl 3-((2-ethoxy-2-oxoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate | 1.1 g, 38% | C(C)OC(COC([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C)=O | C28H36FNO5
